Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxic and Hypercarbic Respiratory Failure, deep vein 
thromboses
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o F with atrial fibrillation on warfarin, PE, CKD III, PVD, 
multinodular goiter s/p biopsy w/ possible follicular neoplasm 
in ___ who was sent to ___ ED after being found to have L 
jugular and subclavian venous thrombosis despite therapeutic INR 
on warfarin. Patient found to have airway stenosis on CT 
imaging, and s/s of hypercarbic respiratory failure, w/ABG 
consistent w/acute on chronic hypercapnic respiratory failure, 
sent to ICU for monitoring and further workup.  

 
Past Medical History:
- T2DM (HbA1c 6.1% in ___, diet controlled)
- HLD
- CKD III
- PVD
- OA
- iron deficiency anemia
- paroxysmal atrial fibrillation
- pulmonary embolism
- stroke
- diverticulosis
- goiter (nontoxic multinodular)
- AAA (3.3 cm in ___, no further eval)
- cholelithiasis
- obesity
- lung nodules (as above)
- neurogenic bladder
- prolonged QT 
 
Social History:
___
Family History:
Mother, aunt, and uncle all had CHF, unknown cause; no known hx 
of CAD in her family. Daughter with heart arrhythmia on 
amiodarone  
 
Physical Exam:
Admission Physical Exam 
======================
GENERAL: Patient pleasant and cooperative w/exam, and AAOx3, 
falls asleep intermittently during exam. 
HEENT: Sclera anicteric w/evidence of slight proptosis, MMM, 
oropharynx clear  
NECK: Large multinodular goiter on exam 
LUNGS: Clear to auscultation bilaterally, no stridor at the 
throat, no wheezes, rales, rhonchi  
CV: Irregularly irregular rate and rhythm, normal S1 S2, ___ SEM 
loudest at the mitral valve, no rubs, gallops  
ABD: Soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, left upper extremity 
w/increased edema versus right  
SKIN: No visible rashes upper/lower extremities
NEURO:  as noted above, patient sleepy during exam

DISCHARGE PHYSICAL EXAM
========================
Vital Signs: 98.7  130/58 57 18 99% on 1L
GENERAL: Patient pleasant and cooperative w/exam, and AAOx3, 
HEENT: Sclera anicteric w/evidence of slight proptosis, MMM, 
oropharynx clear  
NECK: Large multinodular goiter on exam  
LUNGS: Clear to auscultation bilaterally, no stridor at the 
throat, no wheezes, rales, rhonchi  
CV: Irregularly irregular rate and rhythm, normal S1 S2, ___ SEM 
loudest at apex, no rubs, gallops  
ABD: Soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, left upper extremity 
w/increased edema versus right. 
SKIN: No visible rashes upper/lower extremities  
NEURO: A&O x 3

 
Pertinent Results:
ADMISSION LABS:
===============================
___ 04:05AM BLOOD WBC-5.2 RBC-3.79* Hgb-9.3* Hct-32.2* 
MCV-85 MCH-24.5* MCHC-28.9* RDW-19.9* RDWSD-58.3* Plt ___
___ 04:05AM BLOOD Neuts-70.9 Lymphs-12.6* Monos-13.0 
Eos-2.1 Baso-0.8 Im ___ AbsNeut-3.65 AbsLymp-0.65* 
AbsMono-0.67 AbsEos-0.11 AbsBaso-0.04
___ 04:05AM BLOOD ___ PTT-77.1* ___
___ 04:05AM BLOOD Glucose-113* UreaN-16 Creat-0.9 Na-143 
K-3.8 Cl-105 HCO3-31 AnGap-11
___ 04:05AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.9
___ 08:51PM BLOOD TSH-3.1
___ 08:51PM BLOOD T4-7.5
___ 01:52AM BLOOD Type-ART pO2-77* pCO2-74* pH-7.29* 
calTCO2-37* Base XS-5
___ 08:56PM BLOOD Lactate-1.0

OTHER PERTINENT/DISCHARGE LABS
=================================
___ 07:53PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)- 
Negative
___ 04:05AM BLOOD Triglyc-35
___ 08:51PM BLOOD TSH-3.1
___ 08:51PM BLOOD T4-7.5
___ 07:53PM BLOOD TotProt-6.3*
___ 07:53PM BLOOD Lupus-NEG
___ 07:53PM BLOOD Thrombn-19.3*
___ 06:40PM BLOOD IPT-DONE

DISCHARGE LABS
=================
___ 07:40AM BLOOD WBC-4.6 RBC-3.84* Hgb-9.3* Hct-32.3* 
MCV-84 MCH-24.2* MCHC-28.8* RDW-18.2* RDWSD-54.6* Plt ___
___ 07:40AM BLOOD ___ PTT-29.2 ___
___ 07:40AM BLOOD Glucose-80 UreaN-10 Creat-0.8 Na-142 
K-4.5 Cl-99 HCO3-36* AnGap-12

IMAGING
===================
___ LENIs
No evidence of deep venous thrombosis in the left lower 
extremity veins.

___ CT Chest w and wout
1.  No evidence of pulmonary embolism or acute aortic 
abnormality. 
2.  Multiple pulmonary nodules, the largest of which measures 7 
mm.  If 
clinically indicated, follow-up chest CT is suggested at ___ 
months.  If there 
is no change, a second follow-up in ___ months and then at 24 
months is 
recommended if there is no change. 
3.  Dilated main pulmonary artery likely reflective of pulmonary 
arterial 
hypertension. 
4.  Markedly enlarged thyroid gland with mediastinal extension 
and severe 
narrowing of the trachea. 
5.  Mild centrilobular emphysema. 

CXR ___
1. Moderate pulmonary congestion and mild interstitial edema is 
increased, 
moderate right pleural effusion is new, and moderate left 
basilar atelectasis is increased since ___, consistent 
with acute CHF exacerbation. Large goiter, unchanged. 

Ankle XR ___
FINDINGS:  
No acute fracture or dislocation is detected about the left 
ankle.  There is minimal spurring about the distal tibia, but no 
other evidence of tibiotalar joint osteoarthritis.  The mortise 
joint is congruent, without talar dome OCD. There is prominent 
enthesophytic spurring along the posterior and inferior 
calcaneus.  An ovoid density projects inferior to the fibula 
measures 5 mm, of unclear etiology, potentially sequelae of 
prior trauma.  Differential diagnosis could include a early 
left, focus hydroxyapatite, or calcified lymph node.  No 
suspicious lytic or sclerotic lesion is identified.  Vascular 
calcifications are noted. 

CT abdomen ___
 
1. No evidence of malignancy or metastatic disease within the 
abdomen or 
pelvis although residual high-density oral contrast and 
associated artifact moderately limits evaluation of the large 
bowel and pelvis. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Intrahepatic and extrahepatic biliary dilation, which may 
represent 
previous gallstone passage. 
4. Extensive atherosclerosis and infrarenal abdominal aortic 
ectasia measuring maximally 31 mm. 
5. Diverticulosis. 

 
Brief Hospital Course:
___ y/o F with atrial fibrillation on warfarin, PE, CKD III, PVD, 
multinodular goiter s/p biopsy w/ possible follicular neoplasm 
in ___ who was sent to ___ ED after being found to have L 
jugular and subclavian venous thrombosis despite therapeutic INR 
on warfarin. 

#Hypoxemia and Hypercapnic Respiratory Failure (Acute on 
Chronic):
Patient w/new O2 requirement, hx of OSA, and ABG was consistent 
with acute on chronic respiratory failure. Likely the patient's 
stenosis of her airway from large goiter contributing. Also, may 
have undiagnosed COPD given emphysematous changes on her CT scan 
along with untreated OSA. Her elevated bicarbonate is suggestive 
of a chronic process. She was transferred to the ICU on ___ 
for monitoring w/continuous O2 (88-92%) due to concerns about 
airway compression and increasing oxygen requirement shortly 
after her admission. ENT was consulted on ___ for evaluation 
of any airway compromise and did not feel that any intervention 
was warranted. She did not demonstrate any respiratory distress 
at any time during her hospital stay. She was transferred to the 
floor on the ___ and had continuous O2 monitoring. She also 
continued to use BiPap with good effect at night. Bipap settings 
were: EPAP 5 IPAP 15 O2 flow: 6

#LUE DVTs: Patient w/new onset DVTs despite therapeutic 
warfarin. This is concerning for a coagulopathy. It is unclear 
if this is inherited or acquired perhaps in the setting of 
malignancy. No clear provoking symptoms. CT abdomen/pelvis was 
negative for overt malignancy or metastases. Imaging did show 
pulmonary nodules that will need to be followed up with repeat 
imaging. Also, there is concern for malignancy related to her 
multinodular thyroid. She is scheduled to follow up with her 
endocrinologist regarding this. She was placed on enoxaparin 80 
mg q12hr per hematology recommendations. Hematology/Oncology was 
following her throughout admission as well.

#Gout. Patient had some left foot/ankle pain which impaired her 
ability to walk. It improved after colchicine administration. 
XRay of left foot was negative. 

#Atrial Fibrillation: Has chronic atrial fibrillation, and 
warfarin was discontinued as she developed upper extremity DVTs 
with therapeutic INR. Lovenox was initiated. Amiodarone was at 
first discontinued in the ICU, and then restarted on the floor. 
She was discharged on her home dose of 100 daily. Her PR 
interval was >200 and she was not considered a good candidate 
for a beta blocker while in house.

#Coronary Artery Disease: Stable. Continued atorvastatin, 
aspirin

#Hypertension: Stable. Continued home amlodipine, lisinopril

#Thyroid disease:Patient w/large goiter, and questionable effect 
on trachea. Followed by ___ endocrinology. IP and ENT at ___ 
will consider intervention pending whether there is malignancy 
within goiter, and overall patient prognosis. Methimazole was 
continued. Thyroglobulin pending at discharge.  Abd/pelvic CT 
without evidence of malignancy.

#MGUS: monoclonal IgG kappa represents only 1% of total protein. 
The rest of it, and IgA, are polyclonal. Free kappa and lambda 
light chains both slightly elevated, not worrisome for myeloma. 
No further evaluation needed. 

TRANSITIONAL ISSUES:
#She was followed by hem/onc atrius as inpatient: PCP can refer 
her to Dr ___, ___ Heme, for further follow-up if deemed 
appropriate.

# For the PCP: IP can offer her a joint procedure with ENT 
regarding her large multinodular goiter and its impingement on 
the trachea when it is clear whether there is malignancy present 
or not, and what the overall prognosis of patient is. They can 
certainly stent her trachea if it starts to compromise her 
airway if that is within the patient goals of care. An 
appointment in interventional pulmonology/compromised ___ 
clinic is being made for her at ___ to follow up this issue.

#Multiple pulmonary nodules, the largest of which measures 7 mm. 
If clinically indicated, follow-up chest CT is suggested at ___ 
months. If there is no change, a second follow-up in ___ months 
and then at 24 months is recommended if there is no change. 

#Repeat FNA in 2 weeks with endocrinology. thyroglobulin pending 
at discharge

#nightly bipap: EPAP 5 IPAP 15 O2 flow: 6

#Patient started on Lovenox 80 mg sc BID for UE DVT which 
occurred while on warfarin

#Consider starting allopurinol for prevention of gout

-HCP: ___ (___) - ___
-Code: Full confirmed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 100 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Calcium Carbonate 500 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Lisinopril 30 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
___  MD to order daily dose PO DAILY16 
10. Methimazole 2.5 mg PO DAILY 

 
Discharge Medications:
1. Amiodarone 100 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Calcium Carbonate 500 mg PO DAILY 
6. Lisinopril 30 mg PO DAILY 
7. Methimazole 2.5 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
10. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Deep vein thrombosis
hypoxemic and hypercapnic respiratory failure secondary 
gout flare

Secondary Diagnosis
====================
atrial fibrillation
coronary artery disease
hypertension
multinodular thyroid 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ for 
swollen arms, and you were found to have clots in your arms even 
though you were on Coumadin. Your medication, Coumadin was 
changed to lovenox 80 mg twice a day. You were also started on 
BiPAP at night to help your breathing at night. You should 
continue to use this. You were also treated for a gout flare and 
your foot feels improved. 

Please keep your appointments with your urologist, 
endocrinologist, and primary care physician. You will also need 
to follow up with the lung doctors who were following you as an 
inpatient.

It was a pleasure taking part in your care.
Your ___ Team
 
Followup Instructions:
___